Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
heavy vaginal bleeding
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ year old female with sickle cell disease and 
recent  admission (discharged ___ for pulmonary embolism on 
anticoagulation (Lovenox bridge to coumadin, finished Lovenox 
___, last INR 2.2 ___ with chief complaint of heavy 
menstrual bleeding since this AM. Pt started menstruating 
recently and woke up this AM in a "pool of blood". She was 
lightheaded, dizzy, and short of breath, but she was able to get 
up and shower without difficulty. She reports using 1 pad/hr. 
She also has lower abdominal cramping since this AM. Of note, 
she required transfusion 2 weeks ago for heavy menstrual 
bleeding. 
   
Initial vitals in ED: 99.4 130/82 103 16 97%RA. Patient was 
given benadryl 25mg IV x2, dilaudid 2mg IV x2, ativan 1mg PO, 
and 2L NS. Urine HCG negative. CXR shows increased interstitial 
edema. GYN was consulted - will see patient on the floor or as 
outpatient to discuss OCP, as there was minimal bleeding seen on 
pelvic exam. Pt was very uncomfortable w. exam ___ h/o sexual 
abuse as a child. VS on transfer 98.4 98 118/61 18 98%RA. The 
patient had +SI in ED without plan, psych was consulted and 
requested 1:1 sitter. Psych will follow during admission.
   
On the floor, vitals were: 98.6 106/69 94 20 96%RA. The patient 
reports headache, chest pain, abdominal pain, pain "all over", 
and continued vaginal bleeding. No suicidal ideations at this 
time because "pain is controlled". 

 
Past Medical History:
Sickle cell (HbSS) disease with frequent hospitalizations with 
pain crises. 
s/p acute chest syndrome requiring intubation in ___. 
? CVA in ___
Pulmonary embolus in ___ circumstances unclear. 
Asthma
Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations.
Transfusion-related Hepatitis C
s/p cholecystectomy
Hx of seizure disorder-details unknown
Hx of numerous port-a-cath placements
Hx of coag-negative staph and MSSA line infections
Hyperprolactinemia

 
Social History:
___
Family History:
-mother ___ sickle trait
-father ___ has sickle cell anemia

 
Physical Exam:
VITALS: 98.6 106/69 94 20 96%RA
GEN: thin young woman lying in bed, in NAD
HEENT: NC/AT, EOMI, dry MM
NECK: supple, no LAD
LUNGS: CTA b/l, no wheezing/rales
HEART: RRR, normal S1S2, no m/r/g
ABD: soft, TTP throughout especially lower quadrants, nd, +bs, 
no masses
EXTREM: thin, no edema, +distal pulses
NEURO: AAOx3, CNII-XII intact, ___ strength throughout, 
sensation intact throughout

 
Pertinent Results:
ADMISSION LABS:
___ 08:45AM BLOOD WBC-5.6 RBC-2.53*# Hgb-9.4*# Hct-28.1*# 
MCV-111* MCH-37.0* MCHC-33.3 RDW-26.8* Plt ___
___ 08:45AM BLOOD Neuts-62 Bands-0 ___ Monos-6 Eos-4 
Baso-0 ___ Metas-1* Myelos-0 NRBC-15*
___ 08:45AM BLOOD Hypochr-NORMAL Anisocy-3+ Poiklo-2+ 
Macrocy-3+ Microcy-NORMAL Polychr-1+ Spheroc-OCCASIONAL 
Ovalocy-OCCASIONAL Target-1+ Sickle-1+ Schisto-OCCASIONAL Tear 
___
___ 08:45AM BLOOD ___ PTT-36.1* ___
___ 08:45AM BLOOD Ret Man-12.3*
___ 08:45AM BLOOD Glucose-112* UreaN-8 Creat-0.4 Na-137 
K-5.0 Cl-105 HCO3-22 AnGap-15
___ 08:45AM BLOOD ALT-71* AST-105* LD(LDH)-651* CK(CPK)-77 
AlkPhos-245* TotBili-0.7
___ 08:45AM BLOOD HCG-<5
___ 08:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:50AM BLOOD Glucose-106* Na-138 K-4.6 Cl-104 
calHCO3-25
___ 08:50AM BLOOD Hgb-10.3* calcHCT-31
   
STUDIES:
CXR - The heart is mildly enlarged. Diffuse increased 
interstitial 
markings are consistent with mild interstitial edema. This is 
likely the 
sequela of clinical treatment, but may also represent changes 
related to acute chest syndrome. There is no focal 
consolidation, pleural effusion, or pneumothorax. Surgical clips 
in the upper abdomen appear intact. 
   
DISCHARGE LABS:
___ 06:25AM BLOOD WBC-8.0 RBC-2.05* Hgb-7.7* Hct-23.8* 
MCV-116* MCH-37.8* MCHC-32.5 RDW-25.7* Plt ___
___ 06:25AM BLOOD ___ PTT-29.5 ___
 
Brief Hospital Course:
A/P: ___ with h/o sickle cell anemia, Hep C, PE - on 
anticoagulation, menhorrhagia, presents with heavy menstrual 
bleeding. 
.
#. Menorrhagia: Patient has h/o menorrhagia, requiring 
transfusion 2 weeks prior (___). Serum HC was negative, so this 
wasn't a spontaneous abortion. Patient reports waking up in a 
pool of blood and using 1 pad/hour, but minimal bleeding was 
seen on pelvic exam in the ED. There was a moderate amount of 
clotted blood seen on a pad by a nurse on the floor. The 
patient's HCT remained at baseline during the hospitalization 
(___), and she did not require blood transfusion. 
Anticoagulation was held on admission, as the patient's INR was 
3.3. The dose of Coumadin was lowered from 7.5mg daily to 5mg 
daily. She did not have SOB or lightheadedness. When asked how 
this episode of bleeding started, the patient revealed that she 
had been raped by her boyfriend the day prior to admission. She 
was followed by Psych and Social Work. She declined a rape kit. 
   
#. Sickle cell anemia: Pt reported pain all over and in her 
chest, but she was noted to be comfortable during the 
hospitalization. She did not require IV pain medications while 
she was here. She was kept on all of her prior medications - 
folate, hydroxyurea, dilaudid ___ PO q3h prn, morphine SR 60mg 
q12h, benadryl, hydroxyzine. She has follow up with ___ 
scheduled for ___.
   
#. Suicidal ideations: The patient was reporting suicidal 
ideations during her hospitalization. She was closely followed 
by Psychiatry. A 1:1 sitter was ordered to stay with the 
patient. She was continued on citalopram and mirtazapine. She 
was evaluated initially and recommended that she have inpatient 
psychiatric treatment. However, upon re-evaluation, it was 
determined to be safe for her to return to her prior residence.
        
#. Seizure disorder: The patient has a h/o sz disorder. Last 
phenytoin level was 5.1 on ___. Phenytoin level was drawn and 
noted to be subtherapeutic at 7. The patient's dose was doubled 
once. Recheck of the phenytoin level was 11.7. She was continued 
on 200mg BID.
   
#. PE: Patient has a h/o PEs and was taking Coumadin as an 
outpatient. INR on admission was 3.3. The patient's Coumadin 
dose was decreased to 5mg daily. INR on dicharge was 1.5. It 
will be followed at her group home. When the INR is between 2 
and 3 for 48 hours, the lovenox injections can be stopped. She 
should continue on coumadin indefinitely. 

 
Medications on Admission:
albuterol 1 neb q4h prn wheezing
citalopram 30mg daily
benadryl 25mg q6h prn itching
docusate 100mg BID
folate 1mg daily
gabapentin 300mg qhs
dilaudid ___ PO q3h prn pain
hydroxyzine 25mg q6h prn itching
hydroxyurea 1000mg daily
magnesium oxide 400 daily
mirtazapine 15mg qhs
morphine SR 60mg q8h
zofran 4mg q8h prn nausea
phenytoin 200mg BID
promethazine 25 q6h prn nausea
senna 1 tab BID prn constipation
sodium chloride nasal spray TID prn congestion
warfarin 7.5mg daily
 
Discharge Medications:
1. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain: hold for somnolence, RR<12.  
2. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours) as 
needed for wheezing.  
3. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
4. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO Q6H 
(every 6 hours) as needed for itching.  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
8. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
9. Hydroxyzine HCl 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for itching.  
10. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
12. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q8H (every 8 hours): hold for somnolence, 
RR<12.  
13. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
14. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) 
Capsule PO BID (2 times a day).  
15. Promethazine 25 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for nausea.  
16. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
17. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
TID (3 times a day) as needed for congestion.  
18. Lovenox 40 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous 
every twelve (12) hours for 5 days: Please draw daily INRs - 
continue Lovenox until INR ___ for 48 hours. .  
19. Outpatient Lab Work
Please draw daily ___ until INR therapeutic (___) for 48 
hours. Then draw once/week. Fax results to the ___ 
Anticoagulation Management Services at ___.
20. Warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day: 
please hold for INR>3.  

 
Discharge Disposition:
Extended ___
 
Discharge Diagnosis:
Primary Diagnosis
Menorrhagia
Suicidal ideations
   
Secondary Diagnoses
Sickle cell anemia
Pulmonary embolism
Seizure disorder

 
Discharge Condition:
Hematocrit stable, no evidence of heavy bleeding

 
Discharge Instructions:
You were treated in the hospital for heavy vaginal bleeding. 
Your INR, which is a measure of how thin your blood is, was 
elevated. Your Coumadin dose was decreased to 5mg daily. Your 
blood count, or hematocrit, was closely monitored during your 
hospitalization. It stayed stable, and you did not need a blood 
transfusion.
   
You had suicidal ideations during your hospitalization. You were 
seen by Psychiatry and Social Work. You will be discharged to 
back to your residence, where they will monitor your INR and 
administer your medications. 
   
The following changes were made to your medications:
1. Warfarin was decreased to 5 mg daily
   
If you experience heavy bleeding, shortness of breath, 
lightheadedness, chest pain, fainting, or any other concerning 
symptoms, please call your physician or return to the emergency 
department.
  
It was a pleasure meeting you and taking part in your ___.
 
Followup Instructions:
___